US05464853
5-Amino-4-bromo-3-methylisoxazole (0.179 g, 1.0 mmol) was dissolved in dry pyridine (2 ml). 4-Biphenylsulfonyl chloride (0.509 g, 2.2 mmol) was added with stirring at ambient temperature. N,N-Dimethylaminopyridine (5 mg) was added, and stirring was continued at 50° C. for 16 h. The reaction mixture was diluted with dichloromethane (75 ml), washed with 1N HCl (2×50 ml) and the organic phase was dried over magnesium sulfate. The solvent was removed under reduced pressure to yield a crude product, which was purified by column chromatography using 8:2, hexanes/ethyl acetate, to give 0.390 g (60% yield) of N-(4-biphenylsulfonyl)-N-(4-bromo-3-methyl-5-isoxazolyl)-4-biphenylsulfonamide.

reactant | 5-Amino-4-bromo-3-methylisoxazole | 1.0 mmol, 0.179 g | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-Biphenylsulfonyl chloride | 2.2 mmol, 0.509 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | N-(4-biphenylsulfonyl)-N-(4-bromo-3-methyl-5-isoxazolyl)-4-biphenylsulfonamide | 0.390 g, 60% yield | C1(=CC=C(C=C1)S(=O)(=O)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=C(C(=NO1)C)Br)C1=CC=CC=C1 | C28H21BrN2O5S2
